US07608639B2
3-{2-Methyl-4-[3-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared according to Example 38 by using o-cresol and 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester to afford about 229 mg (21%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C30H25O5F3 522, found 523 (M+1, 100%).

reactant | o-cresol | C1(=CC=CC=C1O)C | C7H8O
reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4
product | 3-{2-Methyl-4-[3-(2-o-tolyloxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=C(C=CC=C1)C)CCC(=O)O | C30H25F3O5
